US05432177
Step 3: 3-(4-[4-Dimethylaminophenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (0.4450 g, 2.54 mmol) and 1-(4-dimethylaminophenyl)piperazine (0.55 g, 2.68 mmol) in toluene (20 ml) was heated at reflux under nitrogen for 7 h. The mixture was allowed to cool and the solid formed was collected. Recrystallisation from methanol gave the title compound (0.382 g, 45%) as colourless needles, m.p. 199°-201° C.; (Found: C, 71.32; H, 7.37; N, 20.71. C20H25N5 requires C, 71.61; H, 7.51; N, 20.88%); δH (DMSO-d6) 2.52 (4H, m, 2×piperazinyl CH2), 2.76 (6H, s, N(CH3)2), 2.95 (4H, m, 2×piperazinyl CH2), 3.67 (2H, s, CH2N), 6.66 (2H, m, ArH), 6.80 (2H, m, ArH), 7.03 (1 H, dd, J 7.8, 4.7 Hz), 7.35 (1H, d, J 2.0 Hz, 2-H), 8.04 (1H, dd, J 7.8, 1.5 Hz, 4-H), 8.19 (1H, dd, J 4.7, 1.5 Hz, 6-H), and 11.41 (1H, br s, NH); m/z (CI+, NH3) 336 (M+1)+.

reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.54 mmol, 0.4450 g | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
reactant | 1-(4-dimethylaminophenyl)piperazine | 2.68 mmol, 0.55 g | CN(C1=CC=C(C=C1)N1CCNCC1)C | C12H19N3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[4-Dimethylaminophenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 0.382 g, 45% | CN(C1=CC=C(C=C1)N1CCN(CC1)CC1=CNC2=NC=CC=C21)C | C20H25N5
